.title kicad schematic

* u27 net-_u27-pad1_ net-_u1-pad4_ d_inverter
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ port
* u28 net-_u28-pad1_ net-_u27-pad1_ d_inverter
* u29 net-_u26-pad1_ net-_u28-pad1_ d_inverter
* u33 net-_u30-pad1_ net-_u32-pad1_ d_inverter
* u32 net-_u32-pad1_ net-_u31-pad1_ d_inverter
* u30 net-_u30-pad1_ net-_u26-pad1_ unconnected-_u30-pad3_ net-_u10-pad4_ unconnected-_u30-pad5_ net-_u30-pad1_ d_dff
* u31 net-_u31-pad1_ net-_u1-pad3_ d_inverter
* u16 net-_u16-pad1_ net-_u15-pad1_ d_inverter
* u15 net-_u15-pad1_ net-_u1-pad7_ d_inverter
* u11 net-_u11-pad1_ net-_u1-pad8_ d_inverter
* u12 net-_u12-pad1_ net-_u11-pad1_ d_inverter
* u18 net-_u18-pad1_ net-_u14-pad1_ unconnected-_u18-pad3_ net-_u10-pad4_ unconnected-_u18-pad5_ net-_u18-pad1_ d_dff
* u17 net-_u14-pad1_ net-_u16-pad1_ d_inverter
* u13 net-_u10-pad1_ net-_u12-pad1_ d_inverter
* u6 net-_u10-pad2_ net-_u4-pad2_ unconnected-_u6-pad3_ net-_u10-pad4_ unconnected-_u6-pad5_ net-_u10-pad2_ d_dff
* u2 net-_u1-pad2_ net-_u2-pad2_ d_inverter
* u3 net-_u2-pad2_ net-_u3-pad2_ d_inverter
* u4 net-_u1-pad1_ net-_u4-pad2_ d_inverter
* u5 net-_u3-pad2_ net-_u10-pad4_ d_buffer
* u21 net-_u18-pad1_ net-_u20-pad1_ d_inverter
* u26 net-_u26-pad1_ net-_u22-pad1_ unconnected-_u26-pad3_ net-_u10-pad4_ unconnected-_u26-pad5_ net-_u26-pad1_ d_dff
* u19 net-_u19-pad1_ net-_u1-pad6_ d_inverter
* u20 net-_u20-pad1_ net-_u19-pad1_ d_inverter
* u22 net-_u22-pad1_ net-_u18-pad1_ unconnected-_u22-pad3_ net-_u10-pad4_ unconnected-_u22-pad5_ net-_u22-pad1_ d_dff
* u23 net-_u23-pad1_ net-_u1-pad5_ d_inverter
* u25 net-_u22-pad1_ net-_u24-pad1_ d_inverter
* u24 net-_u24-pad1_ net-_u23-pad1_ d_inverter
* u14 net-_u14-pad1_ net-_u10-pad1_ unconnected-_u14-pad3_ net-_u10-pad4_ unconnected-_u14-pad5_ net-_u14-pad1_ d_dff
* u7 net-_u7-pad1_ net-_u1-pad9_ d_inverter
* u8 net-_u8-pad1_ net-_u7-pad1_ d_inverter
* u9 net-_u10-pad2_ net-_u8-pad1_ d_inverter
* u10 net-_u10-pad1_ net-_u10-pad2_ unconnected-_u10-pad3_ net-_u10-pad4_ unconnected-_u10-pad5_ net-_u10-pad1_ d_dff
a1 net-_u27-pad1_ net-_u1-pad4_ u27
a2 net-_u28-pad1_ net-_u27-pad1_ u28
a3 net-_u26-pad1_ net-_u28-pad1_ u29
a4 net-_u30-pad1_ net-_u32-pad1_ u33
a5 net-_u32-pad1_ net-_u31-pad1_ u32
a6 net-_u30-pad1_ net-_u26-pad1_ unconnected-_u30-pad3_ net-_u10-pad4_ unconnected-_u30-pad5_ net-_u30-pad1_ u30
a7 net-_u31-pad1_ net-_u1-pad3_ u31
a8 net-_u16-pad1_ net-_u15-pad1_ u16
a9 net-_u15-pad1_ net-_u1-pad7_ u15
a10 net-_u11-pad1_ net-_u1-pad8_ u11
a11 net-_u12-pad1_ net-_u11-pad1_ u12
a12 net-_u18-pad1_ net-_u14-pad1_ unconnected-_u18-pad3_ net-_u10-pad4_ unconnected-_u18-pad5_ net-_u18-pad1_ u18
a13 net-_u14-pad1_ net-_u16-pad1_ u17
a14 net-_u10-pad1_ net-_u12-pad1_ u13
a15 net-_u10-pad2_ net-_u4-pad2_ unconnected-_u6-pad3_ net-_u10-pad4_ unconnected-_u6-pad5_ net-_u10-pad2_ u6
a16 net-_u1-pad2_ net-_u2-pad2_ u2
a17 net-_u2-pad2_ net-_u3-pad2_ u3
a18 net-_u1-pad1_ net-_u4-pad2_ u4
a19 net-_u3-pad2_ net-_u10-pad4_ u5
a20 net-_u18-pad1_ net-_u20-pad1_ u21
a21 net-_u26-pad1_ net-_u22-pad1_ unconnected-_u26-pad3_ net-_u10-pad4_ unconnected-_u26-pad5_ net-_u26-pad1_ u26
a22 net-_u19-pad1_ net-_u1-pad6_ u19
a23 net-_u20-pad1_ net-_u19-pad1_ u20
a24 net-_u22-pad1_ net-_u18-pad1_ unconnected-_u22-pad3_ net-_u10-pad4_ unconnected-_u22-pad5_ net-_u22-pad1_ u22
a25 net-_u23-pad1_ net-_u1-pad5_ u23
a26 net-_u22-pad1_ net-_u24-pad1_ u25
a27 net-_u24-pad1_ net-_u23-pad1_ u24
a28 net-_u14-pad1_ net-_u10-pad1_ unconnected-_u14-pad3_ net-_u10-pad4_ unconnected-_u14-pad5_ net-_u14-pad1_ u14
a29 net-_u7-pad1_ net-_u1-pad9_ u7
a30 net-_u8-pad1_ net-_u7-pad1_ u8
a31 net-_u10-pad2_ net-_u8-pad1_ u9
a32 net-_u10-pad1_ net-_u10-pad2_ unconnected-_u10-pad3_ net-_u10-pad4_ unconnected-_u10-pad5_ net-_u10-pad1_ u10
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u30 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u18 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u5 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u26 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u22 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u14 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_dff, Ngspice Name: d_dff
.model u10 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
